US04952391
Stearyl alcohol 4.0 g
10 Mixture of cetostearyl 2-ethylhexanoate and isopropyl myristate "CERAMOLL" (Creations Aromatiques) 2.0 g

reactant | 2-ethylhexanoate | C(C)C(C(=O)[O-])CCCC
reactant | isopropyl myristate | C(CCCCCCCCCCCCC)(=O)OC(C)C | C17H34O2
product | Stearyl alcohol | C(CCCCCCCCCCCCCCCCC)O | C18H38O
